data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
307,334,[CH3:5][NH:6][C:7](=[O:8])[N-:9][O+:10]=[C:11]([C:12](=[O:13])[NH:14][CH3:15])[C:16](=[O:17])[NH:18][CH3:19].[CH:1]#[C:2][O:3][CH3:4]>>[CH:1]1=[C:2]([O:3][CH3:4])[C:11]([C:12](=[O:13])[NH:14][CH3:15])([C:16](=[O:17])[NH:18][CH3:19])[O:10][N:9]1[C:7]([NH:6][CH3:5])=[O:8],water,298.15,13.855002080910788,-67.69738159464126
550,600,[CH3:9][C:10](=[O:11])[C:12]([CH3:13])=[O+:14][C-:15]([CH3:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1.[F:1][C:2]1=[CH:3][CH:4]2[CH:5]=[CH:6][CH:7]1[O:8]2>>[F:1][C:2]1=[CH:3][CH:4]2[CH:5]3[CH:6]([CH:7]1[O:8]2)[C:15]([CH3:16])([c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)[O:14][C:12]3([C:10]([CH3:9])=[O:11])[CH3:13],water,298.15,14.572856983163351,-56.8488063740094
1235,1347,[CH3:18][c-:19]1[c:20](=[O:21])[o:22][n:23][n+:24]1[CH3:25].[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]#[C:7][C:8]([C:9]#[N:10])([C:11]([CH3:12])=[O:13])[CH2:14][CH2:15][CH2:16][CH2:17]1>>[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]2=[C:7]([C:8]([C:9]#[N:10])([C:11]([CH3:12])=[O:13])[CH2:14][CH2:15][CH2:16][CH2:17]1)[C:19]1([CH3:18])[C:20](=[O:21])[O:22][N:23]2[N:24]1[CH3:25],water,298.15,24.895057082194672,-2.2800929076843994
5206,5907,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][NH:16][C:17](=[O:18])[C:19](=[O+:20][C-:21]([CH3:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)[C:29]([CH3:30])=[O:31]>>[C:1]1(=[O:2])[C@:3]2([O:4][CH3:5])[C@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[C:21]([CH3:22])([c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)[O:20][C:19]2([C:17]([NH:16][CH3:15])=[O:18])[C:29]([CH3:30])=[O:31],water,298.15,21.704003230967,-10.70092321803245
2433,2701,[CH3:18][N+:19](=[N:20][c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[N-:27][C:28]#[N:29].[Cl:1][C:2]1([Cl:3])[C:4]#[C:5][C:6]([Br:7])([c:8]2[cH:9][cH:10][cH:11][cH:12][cH:13]2)[CH2:14][CH2:15][CH2:16][CH2:17]1>>[Cl:1][C:2]1([Cl:3])[C:4]2=[C:5]([C:6]([Br:7])([c:8]3[cH:9][cH:10][cH:11][cH:12][cH:13]3)[CH2:14][CH2:15][CH2:16][CH2:17]1)[N:27]([C:28]#[N:29])[N:19]([CH3:18])[N:20]2[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1,water,298.15,26.368041666741465,-21.959538344792733
2319,2575,[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([C:6]#[N:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2.[N:13]#[C:14][C-:15]([NH+:16]=[C:17]([c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1)[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1)[c:30]1[cH:31][cH:32][cH:33][cH:34][cH:35]1>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([C:6]#[N:7])([CH:8]3[CH:9]=[CH:10][CH:11]1[O:12]3)[C:15]([C:14]#[N:13])([c:30]1[cH:31][cH:32][cH:33][cH:34][cH:35]1)[NH:16][C:17]2([c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1)[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1,water,298.15,14.878774452225317,-7.408141128578316
3762,4310,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][O:8][C:9](=[O:10])[CH-:11][NH+:12]=[C:13]([CH3:14])[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:13]([CH3:14])([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[NH:12][CH:11]1[C:9]([O:8][CH3:7])=[O:10],water,298.15,11.7886190999833,-11.249020651671923
1179,1281,[CH3:16][C:17](=[O:18])[C-:19]([O+:20]=[CH:21][C:22]#[N:23])[C:24]([CH3:25])=[O:26].[N:1]#[C:2][C:3]1=[C:4]([c:5]2[cH:6][cH:7][cH:8][cH:9][cH:10]2)[CH:11]2[CH2:12][CH2:13][CH:14]1[CH2:15]2>>[N:1]#[C:2][C:3]12[C:4]([c:5]3[cH:6][cH:7][cH:8][cH:9][cH:10]3)([CH:11]3[CH2:12][CH2:13][CH:14]1[CH2:15]3)[C:19]([C:17]([CH3:16])=[O:18])([C:24]([CH3:25])=[O:26])[O:20][CH:21]2[C:22]#[N:23],water,298.15,9.12119334684526,-34.77353171669241
349,379,[CH3:1][C:2](=[O:3])[C:4]([F:5])=[C:6]([F:7])[F:8].[CH3:9][NH:10][C:11](=[O:12])[C:13]([CH3:14])=[O+:15][CH-:16][C:17]([CH3:18])=[O:19]>>[CH3:1][C:2](=[O:3])[C:4]1([F:5])[C:6]([F:7])([F:8])[CH:16]([C:17]([CH3:18])=[O:19])[O:15][C:13]1([C:11]([NH:10][CH3:9])=[O:12])[CH3:14],water,298.15,12.107898181016273,-58.45430832992857
1448,1590,[CH3:1][NH:2][C:3](=[O:4])[CH:5]1[C:6]#[C:7][C:8]([Cl:9])([Cl:10])[CH2:11][CH2:12][CH2:13][CH2:14]1.[CH:15]#[N+:16][C-:17]([C:18]([CH3:19])=[O:20])[C:21](=[O:22])[NH:23][CH3:24]>>[CH3:1][NH:2][C:3](=[O:4])[CH:5]1[C:6]2=[C:7]([C:8]([Cl:9])([Cl:10])[CH2:11][CH2:12][CH2:13][CH2:14]1)[CH:15]=[N:16][C:17]2([C:18]([CH3:19])=[O:20])[C:21](=[O:22])[NH:23][CH3:24],water,298.15,13.552736437808376,-63.049162435069405
3420,3890,[CH3:9][NH:10][C:11](=[O:12])[C:13]([C:14]#[N:15])=[N+:16]([CH3:17])[O-:18].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]/[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[O:18][N:16]([CH3:17])[C:13]1([C:11]([NH:10][CH3:9])=[O:12])[C:14]#[N:15],water,298.15,26.1027586403997,1.5796408966209772
4618,5265,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[C:15](=[NH+:16][N-:17][C:18]([CH3:19])=[O:20])[C:21](=[O:22])[O:23][CH3:24]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:15]([C:13]([O:12][CH3:11])=[O:14])([C:21](=[O:22])[O:23][CH3:24])[NH:16][N:17]2[C:18]([CH3:19])=[O:20],water,298.15,27.84426623320981,-1.2424209779726951
